US04493801
80 parts of oxygen are passed into 172 parts of isopropylcarbonyloxypivalaldehyde in a stirred reactor at 100° C. in the course of 5 hours. When the reaction has ended, the reaction mixture is subjected to fractional distillation. 118 parts (74% of theory) of 2-hydroxy-1-isopropylcarbonyloxy-2-methylpropane (boiling point 48°-49° C./0.4 mbar) are obtained.

reactant | oxygen | O=O | O2
reactant | isopropylcarbonyloxypivalaldehyde | C(C)(C)C(=O)OCC(C=O)(C)C | C9H16O3
product | 2-hydroxy-1-isopropylcarbonyloxy-2-methylpropane | 74% | OC(COC(=O)C(C)C)(C)C | C8H16O3
